US08017809B2
Bis(4,4′-(phenyl-1-methyl-2-aminoethoxyboryl)benzyl) ether
The entitled compound (40 mg) was obtained by allowing 41 mg of bis(4,4′-(phenylhydroxyboryl)benzyl) ether and 18 mg of 1-aminopropanol to act in 1 mL of ethanol.

reactant | bis(4,4′-(phenylhydroxyboryl)benzyl) ether | 41 mg | C1(=CC=CC=C1)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC=CC=C1 | C26H24B2O3
reactant | 1-aminopropanol | 18 mg | NC(CC)O | C3H9NO
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(4,4′-(phenyl-1-methyl-2-aminoethoxyboryl)benzyl) ether | C1(=CC=CC=C1)B(OC(CN)C)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OC(CN)C)C1=CC=CC=C1 | C32H38B2N2O3
